US06448281B1
A solution of 5-methoxy-6-nitro-pyridine-2-carboxylic acid methyl ester (0.585 g, 2.75 mmol) and cyclohexylamine (0.636 mL, 5.51 mmol) in DMF (8 mL) was heated at 70° C. for 20 h. The mixture was poured on brine (50 mL) while mixing vigorously. The solid formed was filtered, washed with water and then dissolved in EtOAc. The solution was washed with water, saturated NaHCO3 and brine, dried over anhydrous MgSO4, filtered and concentrated to give 5-cyclohexylamino-6-nitro-pyridine-2-carboxylic acid methyl ester as a brown oil (0.558 g) which was used in the subsequent step without purification.

reactant | 5-methoxy-6-nitro-pyridine-2-carboxylic acid methyl ester | 2.75 mmol, 0.585 g | COC(=O)C1=NC(=C(C=C1)OC)[N+](=O)[O-] | C8H8N2O5
reactant | cyclohexylamine | 5.51 mmol, 0.636 mL | C1(CCCCC1)N | C6H13N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 5-cyclohexylamino-6-nitro-pyridine-2-carboxylic acid methyl ester | 0.558 g | COC(=O)C1=NC(=C(C=C1)NC1CCCCC1)[N+](=O)[O-] | C13H17N3O4
